US07101868B2
Preparation CCXXXVII: 3-(Benzotriazol-1-yloxy)-6-chloro-pyridazine-4-carboxylic acid (4-tert-butyl-phenyl)-amide
A mixture of 3,6-dichloropyridazine-4-carboxylic acid (1.00 g, 5.18 mmol), 4-tert-butylaniline (0.92 mL, 5.60 mmol), TBTU (1.75 g, 5.44 mmol), and DIEA (1.80 mL, 10.4 mmol) in 7.5 mL of anhydrous DMF was stirred at RT under N2 overnight. The mixture was diluted with H2O, extracted with EtOAc, and the combined organic portions were washed with brine, dried with Na2SO4, filtered, and condensed. The crude compound was purified by flash column chromatography (hexanes/EtOAc/CH2Cl2, 9:0:1 to 7:2:1), to provide the desired compound as a light yellowish solid. MS (ES+): 423.0 (M+H)+. Calc'd for C21H19ClN6O2-422.87.

reactant | 3,6-dichloropyridazine-4-carboxylic acid | 5.18 mmol, 1.00 g | ClC=1N=NC(=CC1C(=O)O)Cl | C5H2Cl2N2O2
reactant | 4-tert-butylaniline | 5.60 mmol, 0.92 mL | C(C)(C)(C)C1=CC=C(N)C=C1 | C10H15N
reactant | TBTU | 5.44 mmol, 1.75 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIEA | 10.4 mmol, 1.80 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 7.5 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | 3-(Benzotriazol-1-yloxy)-6-chloro-pyridazine-4-carboxylic acid (4-tert-butyl-phenyl)-amide | C(C)(C)(C)C1=CC=C(C=C1)NC(=O)C1=C(N=NC(=C1)Cl)ON1N=NC2=C1C=CC=C2 | C21H19ClN6O2
